US07829560B2
3-Fluoro-N-(4-{[2-(2-methylpyrrolidin-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-piperidin-1-ylbenzamide (Compound B404).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and 2-methylpyrrolidine according to conditions described in general procedure C. Mp: 93-94° C.; 1H NMR (400 MHz, DMSO-d6) δ 0.64 (bs, 2 H), 1.11 (bs, 1 H), 1.58-1.61 (m, 6 H), 1.73-1.84 (m, 4 H), 3.27-3.36 (m, 7 H), 6.24 (s, 1 H), 6.95 (d, J=12.8 Hz, 1 H), 7.14 (d, J=8.4 Hz, 1 H), 7.39 (d, J=8.0 Hz, 1 H), 7.46 (s, 1 H), 7.53-7.63 (m, 3 H), 7.81 (d, J=6.5 Hz, 1 H), 7.96 (d, J=7.7 Hz, 1 H), 8.22 (d, J=5.5 Hz, 1 H), 10.42 (s, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | 2-methylpyrrolidine | CC1NCCC1 | C5H11N
product | 3-Fluoro-N-(4-{[2-(2-methylpyrrolidin-1-yl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-piperidin-1-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)N2C(CCC2)C)C=C(C1)N1CCCCC1 | C31H32FN5O2
